US04504484
1-methyl-5-imidazole carboxylic acid, 7.0 gm, was added to 50 ml of methylene chloride. 5.2 gm of carbonyldiimidazole was added to the system. The system was stirred at room temperature for 18 hours to give the 1-methyl-5-imidazolyl carboxylic acid imidazolide.

reactant | 1-methyl-5-imidazole carboxylic acid | CN1C=NC=C1C(=O)O | C5H6N2O2
reactant | carbonyldiimidazole | 5.2 gm | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-methyl-5-imidazolyl carboxylic acid imidazolide | [N-]1C=NC=C1.CN1C=NC=C1C(=O)O | InChI=1S/C5H6N2O2.C3H3N2/c1-7-3-6-2-4(7)5(8)9;1-2-5-3-4-1/h2-3H,1H3,(H,8,9);1-3H/q;-1
